US06822100B2
A solution of the 2-[(3-cyano-1H-indol-5-yl)-hydroxy-methyl]-cyclopropane-carboxylic acid ethyl ester (1.0 g, 3.5 mmol), dichloromethane (25 ml), and trifluoroacetic acid (5 ml) was cooled to 0° C. and treated with triethylsilane (0.57 g, 5.0 mmol). The solution was stirred for 30 min and then diluted with an additional 50 ml dichloromethane and neutralized with 1 N sodium hydroxide. The organic layer was washed with brine (1×50 ml) and dried over anhydrous sodium sulfate. The filtrate was concentrated in vacuo to a deep amber oil. Silica gel column chromatography (hexanes, ethyl acetate 1:1) afforded 2-(3-cyano-1H-indol-5-ylmethyl)-cyclopropane-carboxylic acid ethyl ester (0.62 g, 56%) as a light yellow oil. LC-MS: 1.38 min; 269.1 (MH)+.

reactant | 2-[(3-cyano-1H-indol-5-yl)-hydroxy-methyl]-cyclopropane-carboxylic acid ethyl ester | 3.5 mmol, 1.0 g | C(C)OC(=O)C1C(C1)C(O)C=1C=C2C(=CNC2=CC1)C#N | C16H16N2O3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 5.0 mmol, 0.57 g | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-(3-cyano-1H-indol-5-ylmethyl)-cyclopropane-carboxylic acid ethyl ester | 0.62 g, 56% | C(C)OC(=O)C1C(C1)CC=1C=C2C(=CNC2=CC1)C#N | C16H16N2O2
